US07399762B2
2-[5-(3-Isopropoxy-phenyl)-4-methyl-2-(3-phenyl-propyl)-2-aza-bicyclo[3.3.1]non-7-yl]-isoindole-1,3-dione.
2-[5-(3-Isopropoxy-phenyl)-4-methyl-2-aza-bicyclo[3.3.1]non-7-yl]-isoindole-1,3-dione (2.92 g, 7.0 mmol) and hydrocinamaldehyde (1.12 g, 8.3 mmol) were dissolved in dichloroethane (115 ml) followed by the addition of sodium triacetoxyborohydride (2.1 g, 9.7 mmol) and allowed to react at room temperature overnight. The reaction was quenched with the addition of a saturated sodium bicarbonate solution (200 ml) and the organic layer separated. The aqueous was then extracted with CHCl3. The combined organic fractions were dried (NaSO4), filtered, and concentrated in vaccu. The crude product was then purified by flash chromatography on an aluminum oxide (neutral, Brockman activity II-III) column and eluting with 8:2 hexane:ethyl acetate giving 3.16 g (83.9%) of the desired product. 1H NMR (CDCl3) δ 7.75 (m, 2H), 7.64 (m, 2H), 7.25 (m, 5H), 6.79 (m, 2H), 6.68 (d, J=7.8, 1H), 5.15 (m, 1H), 4.52 (sept., J=6.0 Hz, 1H), 3.27 (br, 1H), 3.08 (dd, J1=6 Hz, J2=3 Hz, 1H), 2.78-2.52 (m, 6H), 2.25-2.16 (m, 5H), 1.96-1.78 (m, 4H), 1.31 (d, J=6, 6H), 0.78 (d J=6.9, 3H).

reactant | 2-[5-(3-Isopropoxy-phenyl)-4-methyl-2-aza-bicyclo[3.3.1]non-7-yl]-isoindole-1,3-dione | 7.0 mmol, 2.92 g | C(C)(C)OC=1C=C(C=CC1)C12C(CNC(CC(C1)N1C(C3=CC=CC=C3C1=O)=O)C2)C | C26H30N2O3
reactant | sodium triacetoxyborohydride | 9.7 mmol, 2.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 115 ml | ClC(C)Cl | C2H4Cl2
product | 2-[5-(3-Isopropoxy-phenyl)-4-methyl-2-(3-phenyl-propyl)-2-aza-bicyclo[3.3.1]non-7-yl]-isoindole-1,3-dione | C(C)(C)OC=1C=C(C=CC1)C12C(CN(C(CC(C1)N1C(C3=CC=CC=C3C1=O)=O)C2)CCCC2=CC=CC=C2)C | C35H40N2O3
